US06380238B1
6-Chloro-5-fluoro-1H-indole
N,N-Dimethylformamide dimethylacetal (6.3 ml, 45 mmol) was added in one portion to a stirred solution of 3-chloro-4-fluoro-6-methylnitrobenzene (7.0 g, 37 mmol) in N,N-dimethylformamide (30 mL) at 130° C. under Ar. The mixture was stirred at 130° C. for 2 h, cooled to room temperature, concentrated in vacuo and partitioned between ethyl acetate and water and the aqueous was extracted with ethyl acetate (2×). The combined organic extracts were washed with brine, dried (magnesium sulfate), concentrated in vacuo, dissolved in methanol/tetrahydrofuran (1:1; 100 mL) and Raney Nickel®, 50% wt. in water, (5 g) was added. The mixture was cooled to 0° C. and hydrazine hydrate (3 mL, 59 mmol) was added dropwise over 2 min. The mixture was warmed to room temperature, stirred for 1 h then cooled to 0° C. and hydrazine hydrate (1.5 mL) was added over 2 min. The mixture was warmed to room temperature, stirred for 1 h and filtered through celite®. The filter-cake was washed with tetrahydrofuran and the filtrate was concentrated in vacuo and purified by column chromatography [SiO2; heptane-dichloromethane (4:1)] to give the product (3.2 g, 51%) as an off-white solid. An analytical sample was recrystallised (heptane) to give a white solid: mp 105-107° C.; NMR δH (400 MHz, CDCl3) 8.01 (1H, br. s), 7.40 (1H, d, J 6 Hz), 7.35 (1H, d, J 9.4 Hz), 7.25 (1H, t, J 2.8 Hz), 6.50-6.51 (1H, m).

reactant | N,N-Dimethylformamide dimethylacetal | 45 mmol, 6.3 ml | COC(N(C)C)OC | C5H13NO2
reactant | 3-chloro-4-fluoro-6-methylnitrobenzene | 37 mmol, 7.0 g | ClC=1C=C(C(=CC1F)C)[N+](=O)[O-] | C7H5ClFNO2
reactant | hydrazine hydrate | 59 mmol, 3 mL | O.NN
reactant | hydrazine hydrate | 1.5 mL | O.NN
solvent | N,N-dimethylformamide | 30 mL | CN(C=O)C | C3H7NO
product | 6-Chloro-5-fluoro-1H-indole | 3.2 g, 51% | ClC1=C(C=C2C=CNC2=C1)F | C8H5ClFN
